Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Taxol / lisinopril / Doxil
 
Attending: ___.
 
Chief Complaint:
elective admission for chemo
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ with recurrent ovarian cancer who 
presents
for C6 of carboplatin/paclitaxel and paclitaxel
desensitization. She has no complaints today. She has no
headache, vision changes, rhinorrhea, chest pain, dyspnea,
abdominal pain or dysuria.

 
Past Medical History:
consistent with ovarian cancer. 
- ___ optimal debulking surgery for stage IIIA ovarian
cancer, grade 3 serous
- ___ BRCA2 mutation (___)
- ___ Completed IP chemotherapy x 6 cycles
- ___ Asymptomatic rise in CA125
- ___ Doxil severe anaphylactic reaction requiring
hydrocortisone/benadryl/epinephrine with observation in the ER. 
- ___ C1 Carboplatin/Paclitaxel
- ___ PET-CT with resolution of mediastinal, mammary
lymphadenopathy, significant decrease in size and FDG avidity of
hepatic dome lesion 

PAST MEDICAL HISTORY:  
-ovarian CA, as above
- HTN
- L5-S1 disc herniation
- Sciatica
- Prepatellar bursitis
- ___ right breast biopsy benign
- History of SBOs

 
Social History:
___
Family History:
- Father ___ ca
- P-aunt breast and ovarian cancers
- Mother melanoma
- MGM colon ca
- maternal cousin- breast BRCA2+ 

 
Physical Exam:
VITALS: ___ 0812 Temp: 98.1 PO BP: 120/88 HR: 73 RR: 16 O2
sat: 100% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
   
GENERAL:  NAD
HEENT: clear OP, without lesions
EYES:  PERRL, anicteric
NECK:  supple
RESP:  CTAB, no wheezing, rhonchi or crackles
___:  RRR no MRG
GI:  soft, NTND 
EXT:  warm, no edema
SKIN:  dry, no obvious rashes
NEURO:  CN II-XII intact
ACCESS: POC/c/di 
 
Pertinent Results:
___ 12:50PM BLOOD WBC-4.0 RBC-3.36* Hgb-10.5* Hct-31.6* 
MCV-94 MCH-31.3 MCHC-33.2 RDW-14.2 RDWSD-48.6* Plt ___
___ 12:50PM BLOOD Neuts-43.0 ___ Monos-10.1 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-1.71 AbsLymp-1.80 
AbsMono-0.40 AbsEos-0.03* AbsBaso-0.01
___ 12:50PM BLOOD UreaN-13 Creat-0.8 Na-139 K-4.2 Cl-104 
HCO3-24 AnGap-11
___ 12:50PM BLOOD ALT-14 AST-18 AlkPhos-49 TotBili-<0.2
___ 12:50PM BLOOD Albumin-4.2 Calcium-9.8 Phos-3.6 Mg-1.7
___ 12:50PM BLOOD CA125-___SSESSMENT AND PLAN:
___ w/ recurrent ovarian cancer who presents for C5 of 
carboplatin/paclitaxel and paclitaxel desensitization.
  
#OVARIAN CANCER
#ENCOUNTER FOR CHEMOTHERAPY:
Patient presented for C6 of carboplatin/paclitaxel and 
paclitaxel desensitization
She had a severe anaphylactic reaction ___ to Doxil and has 
tolerated it well since then. Her infusion was tolerated well 
without complication.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO ASDIR 
2. Dexamethasone 4 mg PO ASDIR 
3. LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
5. Multivitamins 1 TAB PO DAILY 
6. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
7. Valsartan 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Encounter for chemotherapy
# Hypersensitivity to paclitaxel
# Ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for your scheduled 
chemotherapy with desensitization protocol, which you tolerated 
well. 

Please take the dexamethasone and compazine twice daily for the 
next three days. You should follow up with Dr. ___ as 
previously planned. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___